US06121284
2-Azido-γ-butyrolactone
1.56 g (10 mmol) of 2-bromo-,γ-butyrolactone are dissolved in 2 ml of dimethylformamide, and 612 mg (12.5 mmol) of lithium azide are added at 0° C. The mixture is stirred at room temperature for 2 hours, water is added and the mixture is extracted three times with methylene chloride. The combined organic phases are washed three times with water, dried over sodium sulphate and concentrated. 1.10 g (86.6% of theory) of the title compound are obtained.

reactant | γ-butyrolactone | C1(CCCO1)=O | C4H6O2
reactant | lithium azide | 12.5 mmol, 612 mg | [N-]=[N+]=[N-].[Li+]
reactant | water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-Azido-γ-butyrolactone | N(=[N+]=[N-])C1C(=O)OCC1 | C4H5N3O2
